US07592358B2
IP 3a. benzyl 4-(2,2,2-trifluoroacetyl)piperidine-1-carboxylate
A mixture of 1.00 g (83.15 mmol) of benzyl 4-(2,2,2-trifluoro-1-hydroxyethyl)piperidine-1-carboxylate and 4.95 g (11.66 mmol) Dess-Martin periodinane in 30 mL of DCM was stirred for 20 hours at RT and then made alkaline with saturated aqueous potassium carbonate solution. The reaction mixture was filtered and the phases of the filtrate were separated. The organic phase was dried over sodium sulfate and evaporated down in vacuo. Yield: 896 mg (90% of theoretical); C15H16F3NO3 (M=315.288); calc.: molpeak (M−H)−: 314; found: molpeak (M−H)−: 314; Rf value: 0.39 (silica gel, cyc/EtOAc 2: 1).

reactant | benzyl 4-(2,2,2-trifluoro-1-hydroxyethyl)piperidine-1-carboxylate | 83.15 mmol, 1.00 g | FC(C(O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C15H18F3NO3
reactant | Dess-Martin periodinane | 11.66 mmol, 4.95 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | benzyl 4-(2,2,2-trifluoroacetyl)piperidine-1-carboxylate | FC(C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C15H16F3NO3
